US07115645B2
b) 1,2-Diphenyl-1H-benzimidazole-6-carbaldehyde
1 g of 1,2-diphenyl-6-methyl-1H-benzimidazole was suspended in 31 ml of 40% sulfuric acid and mixed with 13.5 g of cerium ammonium nitrate. It was allowed to stir for 2.5 hours at 80° C., cooled to 20° C., and carefully stirred into saturated aqueous sodium bicarbonate solution. The mixture was extracted three times with ethyl acetate, the combined extracts were washed with saturated aqueous sodium chloride solution, dried on sodium sulfate solution and evaporated to the dry state in a vacuum. The residue was chromatographed on silica gel.

reactant | 1,2-diphenyl-6-methyl-1H-benzimidazole | 1 g | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)C)C2=CC=CC=C2 | C20H16N2
reactant | cerium ammonium nitrate | 13.5 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 31 ml | S(O)(O)(=O)=O | H2O4S
product | 1,2-Diphenyl-1H-benzimidazole-6-carbaldehyde | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)C=O)C2=CC=CC=C2 | C20H14N2O
